US07329662B2
5-(3,4-Bis-trifluoromethyl-phenyl)-3-(2-methyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(3,4-bis-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (176 mg, 0.5 mmol), prepared from commercially available 3,4-bis-trifluoromethyl-acetophenone [CAS No. 129604-25-7] according to general procedure A, and 3-amino-4-(2-methyl-4-pyridinyl)-pyrazole [prepared from 4-cyanomethyl-2-methyl-pyridine, as described in Bioorg. Med. Chem. Lett. 12 (2002) 3537-3541] (87 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (93 mg, 38%). MS (ISP) 491.3 [(M+H)+]; mp 223° C.

reactant | 1-(3,4-bis-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 176 mg | FC(C=1C=C(C=CC1C(F)(F)F)C(CC(C(F)(F)F)=O)=O)(F)F | C12H5F9O2
reactant | 3-amino-4-(2-methyl-4-pyridinyl)-pyrazole | 0.5 mmol, 87 mg | NC1=NNC=C1C1=CC(=NC=C1)C | C9H10N4
product | 5-(3,4-Bis-trifluoromethyl-phenyl)-3-(2-methyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 93 mg, 38% | FC(C=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=CC(=NC=C2)C)(F)F | C21H11F9N4
